US06900226B2
Preparation of 3-(3-iodo-phenylamino)-but-2-enoic acid ethyl ester:
A mixture of 47.79 g 3-iodoaniline, 27.7 ml ethyl acetoacetate and 0.13 ml 37% hydrochlorid acid in 65 ml benzene is boiled under a reflux condenser fitted with a water separator. After 4 h. 4 ml of water have been collected. The solvent is removed at reduced pressure and the residual oil dried in vacuo 3-(3-iodo-phenylamino)-but-2-enoic acid ethyl ester is obtained as a light brown oil. MS (ISP): 332.1 (M+H)+.

reactant | 3-iodoaniline | 47.79 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | ethyl acetoacetate | 27.7 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | hydrochlorid | 0.13 ml | Cl | ClH
reactant | water | O | H2O
solvent | benzene | 65 ml | C1=CC=CC=C1 | C6H6
product | 3-(3-iodo-phenylamino)-but-2-enoic acid ethyl ester | C(C)OC(C=C(C)NC1=CC(=CC=C1)I)=O | C12H14INO2
